US04146631
A vigorously stirred solution of 5-tert-butyl-salicyclic acid (3.88 g) in carbon disulphide (80 ml) was treated portionwise with anhydrous aluminium chloride (8.8 g). The mixture was brought cautiously to the reflux temperature and treated with acetyl chloride (3.45 g) dropwise during 15 minutes. The mixture was heated at reflux with vigorous stirring for 20 hours and then the mixture was added to a mixture of chloroform (80 ml), ice (100 g) and concentrated hydrochloric acid (20 ml), and stirred for a further one hour. The organic layer was then separated, washed with water (3 × 20 ml), and dried over anhydrous sodium sulphate, and the solvent was removed in vacuo. The resulting solid was recrystallized from ethyl acetate, to give 3-acetyl-5-tert-butylsalicylic acid (2.3 g), m.p. 159°-161° C.

reactant | 5-tert-butyl-salicyclic acid | 3.88 g | C(C)(C)(C)C1=CC=C(C(C(=O)O)=C1)O | C11H14O3
reactant | aluminium chloride | 8.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 3.45 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | carbon disulphide | 80 ml | C(=S)=S | CS2
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-acetyl-5-tert-butylsalicylic acid | 2.3 g | C(C)(=O)C1=C(C(C(=O)O)=CC(=C1)C(C)(C)C)O | C13H16O4
